US06117873
b) 7-Fluoro-5-methyl-1,2,3,4-tetrahydroquinoxaline-2,3-dione
20 g (0.118 mol) of 2,3-diamino-5-fluorotoluene and 15.8 g (0.176 mol) of oxalic acid are stirred at reflux for 16 hours in 4N hydrochloric acid. The reaction mixture is cooled, diluted with water, filtered off on a suction filter and washed with water. The title compound is obtained as beige crystals of m.p.>300° C.

reactant | 2,3-diamino-5-fluorotoluene | 0.118 mol, 20 g | NC1=C(C=C(C=C1N)F)C | C7H9FN2
reactant | oxalic acid | 0.176 mol, 15.8 g | C(C(=O)O)(=O)O | C2H2O4
solvent | hydrochloric acid | 4N | Cl | ClH
solvent | water | O | H2O
product | 7-Fluoro-5-methyl-1,2,3,4-tetrahydroquinoxaline-2,3-dione | FC1=CC(=C2NC(C(NC2=C1)=O)=O)C | C9H7FN2O2
